US09108934B2
(2R,4R)-4-[(5-Acetyl-1H-pyrazole-3-carbonyl)amino]-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic Acid
(2R,4R)-4-[(5-Acetyl-1H-pyrazole-3-carbonyl)amino]-5-(3′-chlorobiphenyl-4-yl)-2-hydroxy-pentanoic acid ethyl ester (72 mg, 150 μmol) was stirred at room temperature with LiOH (10.8 mg, 450 μmol) in water (450 μL, 25 mmol) and EtOH (450 μL, 7.7 mmol), overnight. The solvent was removed and the remaining material was purified by preparative HPLC to yield the title compound (11.5 mg) as a TFA salt.

reactant | (2R,4R)-4-[(5-Acetyl-1H-pyrazole-3-carbonyl)amino]-5-(3′-chlorobiphenyl-4-yl)-2-hydroxy-pentanoic acid ethyl ester | 150 μmol, 72 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)NC(=O)C1=NNC(=C1)C(C)=O)O)=O | C25H26ClN3O5
reactant | LiOH | 450 μmol, 10.8 mg | [Li+].[OH-]
reactant | water | 25 mmol, 450 μL | O | H2O
reactant | EtOH | 7.7 mmol, 450 μL | CCO | C2H6O
product | (2R,4R)-4-[(5-Acetyl-1H-pyrazole-3-carbonyl)amino]-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic Acid | 11.5 mg | C(C)(=O)C1=CC(=NN1)C(=O)N[C@@H](C[C@H](C(=O)O)O)CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl | C23H22ClN3O5
